US07109219B2
N1-Ethyl-5-(2-amino-4-pyrimidyl)oxy-1H-1-indolecarboxamide
Sodium hydride (157 mg, 3.93 mmol) was suspended in N,N-dimethylformamide (10 ml) under nitrogen atmosphere, and 4-(1H-5-indolyloxy)-2-pyrimidinamine (826 mg, 3.65 mmol) was gradually added while the reaction mixture was stirred at room temperature. After 10 minutes, the reaction mixture was cooled with an ice-water bath, phenyl N-ethylcarbamate (633 mg, 3.83 mmol) was added, the reaction mixture was heated to room temperature, and the solution was stirred for 4 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by silica gel chromatography (eluent; ethyl acetate:hexane=3:1 to 4:1) to yield the title compound (691 mg, 2.32 mmol, 63.7%) as white powder.

reactant | Sodium hydride | 3.93 mmol, 157 mg | [H-].[Na+]
reactant | 4-(1H-5-indolyloxy)-2-pyrimidinamine | 3.65 mmol, 826 mg | N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)N | C12H10N4O
reactant | phenyl N-ethylcarbamate | 3.83 mmol, 633 mg | C(C)NC(OC1=CC=CC=C1)=O | C9H11NO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N1-Ethyl-5-(2-amino-4-pyrimidyl)oxy-1H-1-indolecarboxamide | 2.32 mmol, 691 mg, 63.7% | C(C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC(=NC=C1)N | C15H15N5O2
